US09193741B2
Synthesis of 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxamide
A suspension of ethyl 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylate (40 mg, 0.07 mmol) in 7N NH3 in MeOH (1 ml) was stirred at room temperature for 3 hours. The solvents were removed under reduced pressure, and the crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 40:1) to yield the title compound as a white solid (25 mg, 66%).

reactant | ethyl 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylate | 0.07 mmol, 40 mg | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C(=O)OCC)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C27H24ClFN4O4S
reactant | NH3 | 7N | N | H3N
solvent | MeOH | 1 ml | CO | CH4O
product | 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxamide | 25 mg, 66% | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C(=O)N)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C25H21ClFN5O3S
